US07691879B2
1-[(2,3-dihydroxypropyl)amino]-6-methoxy-4-phenylisoquinoline-3-carbonitrile
To a solution of 95 mg of (allylamino)-6-methoxy-4-phenylisoquinoline-3-carbonitrile in 9 ml, acetone and 3.5 mL water were added 0.36 ml OsO4 soln (2.5% in 2-Me-2-propanol) and 42 mg of NMO. The reaction was stirred at room temp for 19 h, then diluted with 1:1 saturated aqueous sodium bicarbonate:saturated aqueous Na2SO3. The mixture was partitioned between EA and saturated aqueous sodium bicarbonate, and the organic solution was washed once with brine. The combined aqueous solution were extracted once with EtOAc. The combined organic solutions were dried (Na2SO4) and concentrated. Flash chromatography (0-4% MeOH(10% NH4OH)/EA, 40 g silica) gave a tan solid.

reactant | (allylamino)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | 95 mg | C(C=C)NC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H17N3O
reactant | acetone | CC(=O)C | C3H6O
reactant | NMO | 42 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | OsO4 | 0.36 ml | O=[Os](=O)(=O)=O
solvent | water | 3.5 mL | O | H2O
product | 1-[(2,3-dihydroxypropyl)amino]-6-methoxy-4-phenylisoquinoline-3-carbonitrile | OC(CNC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N)CO | C20H19N3O3
